US04665174
2-Allyl-3-hydroxy-3-methyl-4-cyclopentenone (15.2 g) was dropwise added to a 40% aqueous solution of dimethylamine (60 g) in the same flask as used in Example 1 at a temperature of 10° to 20° C. for 30 minutes. At the same temperature, the reaction mixture was kept for 1 hour. After completion of the reaction, the mixture was treated and purified in the same manner as in Example 1 to obtain 2-allyl-3-methyl-4-dimethylamino-2-cyclopentenone (17.3 g). Yield, 96.5%. nD20 1.4997.

reactant | 2-Allyl-3-hydroxy-3-methyl-4-cyclopentenone | 15.2 g | C(C=C)C1C(C=CC1(C)O)=O | C9H12O2
reactant | dimethylamine | 60 g | CNC | C2H7N
product | 2-allyl-3-methyl-4-dimethylamino-2-cyclopentenone | 17.3 g | C(C=C)C=1C(CC(C1C)N(C)C)=O | C11H17NO
